US04357347
Preparation of the compound ethyl 2-chloro-N-[[[3,5-dichloro-4-(4-nitrophenoxy)phenyl]amino]carbonyl]benzenecarboximidate.
A mixture of ethyl 2-chlorobenzimidate hydrofluoroborate (1.90 g., 7.00 mmol), 3,5-dichloro-4-(4-nitrophenoxy)phenylisocyanate (2.28 g., 7.00 mmol) and triethylamine (0.72 g., 7.20 mmol) in acetone (20 ml) is stirred at room temperature for four hours under an atmosphere of dry nitrogen. The reaction mixture is concentrated under reduced pressure and the residue partitioned between ethyl acetate and water. The organic phase is washed sequentially with dilute hydrochloric acid, dilute sodium bicarbonate, and brine. After drying over sodium sulfate, the ethyl acetate solution is concentrated under reduced pressure and the residue chromatographed over silica gel eluting with 20% ethyl acetate in hexane. The product fractions are combined and concentrated under reduced pressure to leave the title compound as an amorphous solid.

reactant | ethyl 2-chlorobenzimidate | 7.00 mmol, 1.90 g | ClC1=C(C(OCC)=N)C=CC=C1 | C9H10ClNO
reactant | 3,5-dichloro-4-(4-nitrophenoxy)phenylisocyanate | 7.00 mmol, 2.28 g | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)[N+](=O)[O-])Cl)N=C=O | C13H6Cl2N2O4
reactant | triethylamine | 7.20 mmol, 0.72 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | ethyl 2-chloro-N-[[[3,5-dichloro-4-(4-nitrophenoxy)phenyl]amino]carbonyl]benzenecarboximidate | ClC1=C(C=CC=C1)C(OCC)=NC(=O)NC1=CC(=C(C(=C1)Cl)OC1=CC=C(C=C1)[N+](=O)[O-])Cl | C22H16Cl3N3O5
